US07361782B2
C4F9SO2N(CH3)(CH2)11OH was prepared using a procedure similar to that described above for preparing C4F9SO2N(CH3)(CH2)4OH. 175.9 g C4F9SO2NHCH3 and 121.4 g 25% NaOCH3 were reacted to produce a solution of C4F9SO2NNaCH3 in about 100 mL diglyme. This solution was treated with 141 g 11-bromoundecanol (available from Aldrich) and heated at 100° C. for 20 hr to form a heavy precipitate. The reaction was quenched in about 600 mL warm water and the resulting lower layer was stripped at 50° C./0.5 mTorr to leave 269.9 g of C4F9SO2N(CH3)(CH2)11OH, a low-melting solid.

reactant | C4F9SO2N(CH3)(CH2)4OH | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(C)CCCCO | C9H12F9NO3S
reactant | C4F9SO2NHCH3 | 175.9 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)NC | C5H4F9NO2S
reactant | NaOCH3 | 121.4 g | O([Na])C
reactant | 11-bromoundecanol | 141 g | BrCCCCCCCCCCCO | C11H23BrO
solvent | diglyme | about 100 mL | COCCOCCOC | C6H14O3
product | C4F9SO2N(CH3)(CH2)11OH | 269.9 g | C(F)(F)(C(F)(F)C(F)(F)C(F)(F)F)S(=O)(=O)N(C)CCCCCCCCCCCO | C16H26F9NO3S
